datasets/10k_Mayr_OG.csv
SMILES Labelled
C[C:81]([C-:10]1CCC[O:72][C:61]1=[O:62])=[O:82].C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10]2([C:81](C)=[O:82])CCC[O:72][C:61]2=[O:62])[CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"CC[Si:63](CC)(CC)[CH2:62][CH2:11][H:10].C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28>>CC[Si:63](CC)(CC)[CH2:62][CH2+:11].C[CH:20]([H:10])[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28 10,11=10,20"
"CC[O:72][C:61](/[C:10](C)=[C:11](/C)[O-:12])=[O:62].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:32]1>>CC[O:72][C:61]([C:10](C)([C:11](C)=[O:12])[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)=[O:62] 10,11=10,20;12=11,12"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1.C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)=[O+:12]1.C[CH:10](C1=CC=CC=C1)[CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C)O[C:62]([NH:61][NH2:10])=[O:63].C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC(C)(C)O[C:62]([NH:61][NH2+:10][CH:20]([C:21]1=[C:22](C)[NH:23]C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)=[O:63] 10=20;20,21=21,22;22,23=23"
"C[N:12](C)[N:11]=[CH2:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>C[N+:12](C)=[N:11][CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]1 10,11=10,20;12=11,12"
"C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1.Cl[C:20]1=[CH:21][C:22](=[O:23])[C:30](Cl)=[CH:31][C:32]1=[O:33]>>C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH+:10]1[C:20]1(Cl)[CH:21]=[C:22]([O-:23])[C:30](Cl)=[CH:31][C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2.C[N-:10][C:61](C(F)(F)F)=[O:62]>>C[N:10]([CH:20]1[C:21]2=[C:22](C=CC=C2)[N:23](C)[C:32]2=[C:31]1C=CC=C2)[C:61](C(F)(F)F)=[O:62] 10=20;20,21=21,22;22,23=23"
"C[C:20]1=[CH:21][C:22](=[O:23])CC1.[C-:10]([C:61]#[N:62])([C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1)[C:91]#[N:92]>>C[C:20]1([C:10]([C:61]#[N:62])([C:71]2=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]2)[C:91]#[N:92])CC[C:22]([O-:23])=[CH:21]1 10=20;20,21=21,22;22,23=23"
"CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.[CH-:10]([C:61]#[N:62])[C:71]1=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]1>>CN(C)C1=CC=C([CH:20]([CH:10]([C:61]#[N:62])[C:71]2=[CH:72][CH:73]=[C:74]([C:75]#[N:76])[CH:85]=[CH:84]2)[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1 10=20;20,21=21"
"C1=CC2=C(C=C1)[C:81](=[O:82])[N-:10][S:61]2(=[O:62])=[O:72].C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[N:10]1[S:61](=[O:62])(=[O:72])C2=C(C=CC=C2)[C:81]1=[O:82] 10=20;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>C[C+:11]([CH2:10][CH:20]([C:31]#[C:32][C:33]12C3C4C5C6C1[Cr-3:34]54632(C#[O+])(C#[O+])C#[O+])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[CH2:62][Fe-2:63]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20"
C1=CC=C([C-:10]([C:61](C2=CC=CC=C2)=[O:62])[C:71](C2=CC=CC=C2)=[O:72])C=C1.C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([C:10](C2=CC=CC=C2)([C:61](C2=CC=CC=C2)=[O:62])[C:71](C2=CC=CC=C2)=[O:72])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"C[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](C)=[CH2:10]>>C[Si](C)(C)O[N+:12](O[Si](C)(C)C)=[C:11](C)[CH2:10][CH2:20][CH:21]=[C:22]([O-:23])[O:33]C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CCC(CO)[NH2:10].C[N:51]1C(=S)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23]>>CCC(CO)[NH2+:10][CH:20]([C:21]1=[C:22]([O-:23])[N:51](C)C(=S)[N:52](C)[C:32]1=[O:33])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1 10=20;20,21=21,22;22,23=23"
